US09303023B2
To a solution of 5-methoxyindole (10.00 g, 67.95 mmol) in diethylether (200 mL), oxalyl chloride (7.79 mL, 88.33 mmol) was added at 0° C. After stirring at rt for 3 h, the solid was filtered off and washed with cold diethylether to yield 2-(5-methoxy-1H-indol-3-yl)-2-oxoacetyl chloride as a orange solid which was used as such in the next step. LC-MS conditions B: tR=0.46 min, no ionization.

reactant | 5-methoxyindole | 67.95 mmol, 10.00 g | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | oxalyl chloride | 88.33 mmol, 7.79 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | diethylether | 200 mL | C(C)OCC | C4H10O
product | 2-(5-methoxy-1H-indol-3-yl)-2-oxoacetyl chloride | COC=1C=C2C(=CNC2=CC1)C(C(=O)Cl)=O | C11H8ClNO3
